US06703386B2
a) 5-{2-[3-Hydroxy-3-phenyl-2-pyridin-2-yl-1-(pyridin-2-ylamino)propyl]phenylcarbamoyl}pentanoic acid (13)
Prepared from 1.5 g of 3-(2-aminophenyl)-1-phenyl-2-pyridin-2-yl-3-(pyridin-2-ylamino)propan-1-ol, 3.4 g of hexanedioic acid, 1.04 g of dicyclohexylcarbodiimide and 640 mg of benzotriazol-1-ol, analogously to example II f) Product _of molecular weight 524.6 (C31H32N4O4); MS (ESI+): 525 (M+H+): (ESI−): 523 (M−H+)

reactant | 3-(2-aminophenyl)-1-phenyl-2-pyridin-2-yl-3-(pyridin-2-ylamino)propan-1-ol | 1.5 g | NC1=C(C=CC=C1)C(C(C(O)C1=CC=CC=C1)C1=NC=CC=C1)NC1=NC=CC=C1 | C25H24N4O
reactant | hexanedioic acid | 3.4 g | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | dicyclohexylcarbodiimide | 1.04 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | benzotriazol-1-ol | 640 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
product | 5-{2-[3-Hydroxy-3-phenyl-2-pyridin-2-yl-1-(pyridin-2-ylamino)propyl]phenylcarbamoyl}pentanoic acid | OC(C(C(NC1=NC=CC=C1)C1=C(C=CC=C1)NC(=O)CCCCC(=O)O)C1=NC=CC=C1)C1=CC=CC=C1 | C31H32N4O4
